US04473586
4(3-methoxyphenyl)butyric acid ethyl ester is iodinated with iodine and silver trifluoroacetate in methylene chloride to give 4(6-iodo-3-methoxyphenyl)butyric acid ethyl ester. This compound is heated at 80° C. with methylthiolithium in dimethylformamide in the presence of CuO. The resulting product is hydrolyzed with NaOH to give 4(6-methylthio-3-methoxyphenyl)butyric acid, which is cyclyzed with polyphosphoric acid to obtain 5-methylthio-8-methoxy-1,2,3,4-tetrahydro-1-naphthalenone.

reactant | 4(3-methoxyphenyl)butyric acid ethyl ester | C(C)OC(CCCC1=CC(=CC=C1)OC)=O | C13H18O3
reactant | iodine | II | I2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | silver trifluoroacetate | FC(C(=O)[O-])(F)F.[Ag+]
product | 4(6-iodo-3-methoxyphenyl)butyric acid ethyl ester | C(C)OC(CCCC1=CC(=CC=C1I)OC)=O | C13H17IO3
